US05362412
(Preparation of Carboxymethylmercaptosuccinic acid)
A solution of 180 g (10 mol) of water and 98 g (1.0 mol) of maleic anhydride was heated to 40° C. To this solution was added 92 g (1.0 mol) of thioglycolic acid and the reaction mixture was heated to 90° C. with stirring. After three (3) hours at 90° C., the water was evaporated off under reduced pressure. The resulting molten product was cast and ground prior to use.

reactant | water | 10 mol, 180 g | O | H2O
reactant | maleic anhydride | 1.0 mol, 98 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | thioglycolic acid | 1.0 mol, 92 g | C(CS)(=O)O | C2H4O2S
product | Carboxymethylmercaptosuccinic acid | C(=O)(O)CSC(C(=O)O)CC(=O)O | C6H8O6S
